Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / cilostazol
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP and stone extraction
 
History of Present Illness:
Ms. ___ is a ___ woman with history of HTN, HLD,
choledocholithiasis presenting with abdominal pain.

Patient is obtained from patient and her daughter, who is at the
bedside. Patient states that pain started yesterday, located in
epigastum with radiation to the back, was sudden in onset,
associated with nausea and vomiting. No diarrhea, fevers, or
chills. Patient has a history of gallstones for which she
underwent ERCP ___ with stone removal and sphincterotomy. She
initially presented to ___. There, labs notable for AST
415, alk phos 215, T bili 2.5, lipase 37, Hb 11.2, WBC 10.9, UA
positive for bacteria and white blood cells. Received IV fluids
and meropenem in outside hospital. She was then transferred here
for evaluation for ERCP.

 
Past Medical History:
PAST MEDICAL/SURGICAL HISTORY:
- Choledocholithiasis
- Hypertension
- Hyperlipidemia
- Diverticulosis

 
Social History:
___
Family History:
Father died age ___, mother died age ___ "Old age"
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, minimal tenderness in the 
epigastric and RUQ region, Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: ___ ___ Temp: 98.0 PO BP: 161/77 HR: 75 RR: 18 O2
sat: 96% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
CV: Heart rrr, no ___ edema
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, epigastric and RUQ tenderness mild, no
rebound/rigidity. BS present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No diaphoresis 
NEURO: Alert, oriented, face symmetric
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS
--------------
___ 06:53AM BLOOD WBC-6.7 RBC-3.33* Hgb-9.9* Hct-30.7* 
MCV-92 MCH-29.7 MCHC-32.2 RDW-13.8 RDWSD-47.3* Plt ___
___ 01:22AM BLOOD ALT-454* AST-1141* AlkPhos-270* 
TotBili-2.3*
___ 06:53AM BLOOD ALT-189* AST-78* AlkPhos-190* TotBili-0.4

IMAGING
-------
- CT A/P (BID-P): Increased biliary ductal dilation. Mixed
intermediate density and calcified filling defect in the distal
common bile duct most consistent with a partially calcified
gallstone or group of gallstones. There are additional
intermediate density/noncalcified filling defects resting
dependently within the gallbladder. Correlation with clinical
symptoms and LFTs is suggested. Diffuse colonic diverticulosis
without gross evidence of diverticulitis. Bilateral low-grade 
UPJ
obstructions.

ERCP: stone extracted. 

MICROBIOLOGY
------------
Urine culture ___: negative
Urine culture ___ (___): E.coli

Blood cultures x ___: no growth to date

DISCHARGE LABS
--------------
___ 06:53AM BLOOD WBC-6.7 RBC-3.33* Hgb-9.9* Hct-30.7* 
MCV-92 MCH-29.7 MCHC-32.2 RDW-13.8 RDWSD-47.3* Plt ___
___ 06:53AM BLOOD Glucose-110* UreaN-15 Creat-0.9 Na-141 
K-3.8 Cl-107 HCO3-23 AnGap-11
___ 06:53AM BLOOD ALT-189* AST-78* AlkPhos-190* TotBili-0.4
___ 06:53AM BLOOD Mg-1.___ woman with history of hypertension, hyperlipidemia, 
choledocholithiasis presenting with choledocholithiasis.

# Sepsis, resolved 
# Cholangitis/choledocholithiasis: 
Patient with history of choledocholithiasis presenting with 
abdominal pain, found to have leukocytosis, tachycardia, 
transaminitis/hyperbilirubinemia and imaging evidence CBD 
dilatation. Patient started on meropenem at outside hospital, 
transitioned to ceftriaxone and metronidazole.  Blood cultures 
were negative.  Urine culture at OSH grew E.coli, <100K 
organisms.  She was eventually transitioned to ciprofloxacin to 
complete a five-day course.  ERCP was performed with 
sphincteroplasty, stone removal and relief of obstruction.  LFTs 
downtrended after this procedure.  Patient was able to advance 
diet without a problem.  Lipase was within normal limits.  She 
will follow up with her PCP within one week of discharge.

# Anemia: Baseline unknown though hemoglobin 11 at ___. 
No evidence of active bleeding. Hemoglobin stable here with some 
dilutional effect from IV fluids. She may need further work-up 
for chronic anemia as an outpatient by her PCP.

# Hypertension: continued home metoprolol and nifedipine.  
Lisinopril was initially held, and restarted on discharge.

# Hyperlipidemia: home statin will be held for now given 
elevated LFTs

TRANSITIONS OF CARE
-------------------
# Follow-up: She will follow up with her PCP within one week of 
discharge.  Home statin will be held for now given elevated 
LFTs, and should be restarted if these normalize.

# Code status: DNR/DNI

# Contacts/HCP/Surrogate and Communication: ___ -
___ - ___, updated ___ by me. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. NIFEdipine (Extended Release) 30 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Metoprolol Tartrate 50 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth q24h Disp #*2 
Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Lisinopril 40 mg PO DAILY  
5.  Metoprolol Tartrate 50 mg PO BID  
6.  NIFEdipine (Extended Release) 30 mg PO DAILY  
7. HELD- Atorvastatin 20 mg PO QPM  This medication was held. Do 
not restart Atorvastatin until a doctor tells you to

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis
Sepsis
Possible urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with abdominal pain.  
Further testing showed that your bile duct was obstructed and 
you underwent ERCP to relieve the obstruction.  You are now 
being discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___